US04401827
Cinnamoyl carnitine hydrochloride
4.55 g (0.023 moles) of carnitine hydrochloride are dissolved in 6.9 mls of CF3COOH, and to the solution an excess (16 mls) of cinnamoyl chloride is added. The mixture is kept under stirring at 40°-45° C. for 4-5 hours. At the end of this period of time, the mixture is diluted with 60 mls of acetone and some ether is slowly added till complete precipitation. The mixture is filtered and the precipitate which has the tendency to become hygroscopic is quickly washed with ether and dried under vacuum at a temperature not exceeding 50° C.; 5.3 g of a product are obtained (yield 70%) having the following characteristics:

reactant | carnitine hydrochloride | 0.023 moles, 4.55 g | Cl.OC(C[N+](C)(C)C)CC([O-])=O
reactant | cinnamoyl chloride | 16 mls | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
reactant | ether | CCOCC | C4H10O
solvent | CF3COOH | 6.9 mls | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | acetone | 60 mls | CC(=O)C | C3H6O
product | Cinnamoyl carnitine hydrochloride | 5.3 g, yield 70% | Cl.C(C=CC1=CC=CC=C1)(=O)C(O)(C[N+](C)(C)C)CC([O-])=O | InChI=1S/C16H21NO4.ClH/c1-17(2,3)12-16(21,11-15(19)20)14(18)10-9-13-7-5-4-6-8-13;/h4-10,21H,11-12H2,1-3H3;1H
